US07101899B1
5-(2-benzylthio-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole
After sodium hydride (60% paraffin dispersion, 0.13 g, 3.2 mmol) was washed with hexane twice, it was suspended in N,N-dimethylformamide (15 mL). Phenylmethanethiol (0.35 mL, 3.0 mmol) was added to this suspension and stirred for 10 minutes. A solution of 5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole (0.49 g, 1.2 mmol) in N,N-dimethylformamide (5 mL) was added to this mixture and stirred for 1 hour. An 8N aqueous solution of sodium hydroxide was added to the reaction mixture, the resulting mixture was extracted with ethyl acetate, and the extract was washed with water. This extract was dried and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate, 2:1) to obtain 0.48 g (yield 79%).

reactant | sodium hydride | 3.2 mmol, 0.13 g | [H-].[Na+]
reactant | Phenylmethanethiol | 3.0 mmol, 0.35 mL | C1(=CC=CC=C1)CS | C7H8S
reactant | 5-(2-fluoro-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole | 1.2 mmol, 0.49 g | FC1=NC=CC(=C1)C1=C(N=C(S1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=CC=C1)C | C22H17FN2O2S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(2-benzylthio-4-pyridyl)-4-(3-methylphenyl)-2-(4-methylsulfonylphenyl)-1,3-thiazole | yield 79% | C(C1=CC=CC=C1)SC1=NC=CC(=C1)C1=C(N=C(S1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=CC=C1)C | C29H24N2O2S3
